US06730802B2
A solution of 70 g of chloromethyldimethylsilane in 400 ml of anhydrous tetrahydrofuran (THF) was added dropwise to 20 g of magnesium powder in a flask equipped with a mechanical stirrer and a condenser. The rate of addition was regulated to maintain reflux for the Grignard solution. To this Grignard reagent solution was then added dropwise 37 g of methyldichlorosilane in 300 ml THF. The resultant mixture was stirred overnight with gentle reflux. After cooled down to room temperature, the reaction was worked up by adding water. The organic phase was separated and dried over anhydrous sodium sulfate. Solvent (THF) was removed by atmospheric pressure distillation. Vacuum distillation at 85° C./20 mm yielded 56 g of 2,4,6-trimethyl-2,4,6-trisila-heptane.

reactant | chloromethyldimethylsilane | 70 g | ClC[SiH](C)C | C3H9ClSi
reactant | magnesium | 20 g | [Mg] | Mg
reactant | methyldichlorosilane | 37 g | C[SiH](Cl)Cl | CH4Cl2Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | THF | 300 ml | O1CCCC1 | C4H8O
product | 2,4,6-trimethyl-2,4,6-trisila-heptane | 56 g | C[SiH](C)C[SiH](C[SiH](C)C)C | C7H22Si3
